US05534573
Tetraethyl 2-n-butylamino-1,3,5-triazine-4,6-diphosphonate prepared as described in Example 17 was dissolved in excess diethylamine and heated at reflux (59°-60° C.) for 6 hours to produce diethyl 2-n-butylamino-4-diethylamino-1,3,5-triazine-6-phosphonate.

reactant | Tetraethyl 2-n-butylamino-1,3,5-triazine-4,6-diphosphonate | C(CCC)NC1=NC(=NC(=N1)P(OCC)(=O)OCC)P(OCC)(=O)OCC | C15H30N4O6P2
reactant | diethylamine | C(C)NCC | C4H11N
product | diethyl 2-n-butylamino-4-diethylamino-1,3,5-triazine-6-phosphonate | C(CCC)NC1=NC(=NC(=N1)N(CC)CC)P(OCC)(=O)OCC | C15H30N5O3P
